US09422271B2
A mixture of compound 5-bromo-N-methylthiophene-2-sulfonamide (2.3 g, 9.05 mmol, 1.0 eq), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3 g, 12.35 mmol, 1.3 eq), Pd(dppf)Cl2 (0.74 g, 0.905 mmol, 0.1 eq), CH3COOK (3.6 g, 36.7 mmol, 4.0 eq) in 1,4-dioxane (30 ml) was stirred at 100° C. under a nitrogen atmosphere for 3 h. The reaction mixture was allowed to cool to room temperature and concentrated to give a residue. The residue was purified by silica gel chromatography (PE/CH3COOC2H5 300:1 to 40:1 as eluent) to afford title N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide (1.5 g, 55%) as a solid.

reactant | 5-bromo-N-methylthiophene-2-sulfonamide | 9.05 mmol, 2.3 g, 1.0 eq | BrC1=CC=C(S1)S(=O)(=O)NC | C5H6BrNO2S2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 12.35 mmol, 3 g, 1.3 eq | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | CH3COOK | 36.7 mmol, 3.6 g, 4.0 eq | CC(=O)O[K]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.905 mmol, 0.74 g, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide | 1.5 g, 55% | CNS(=O)(=O)C=1SC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H18BNO4S2
